US08541343B2
3.0 g 1-Dimethylamino-piperidin-4-one (prepared as described in Journal of Medicinal & Pharmaceutical Chemistry, 4, 423-36; 1961) is cooled to 0° C., and 3.8 g N,N-dimethylhydrazine is added at such a rate, that the internal temperature does not exceed 15° C. The mixture is stirred at ambient temperature for 3 hours. Then the excess of N,N-dimethylhydrazine is evaporated. Thus, 3.65 g [4-(Dimethyl-hydrazono)-piperidin-1-yl]-dimethyl-amine is obtained. 1H-NMR (CDCl3): 2.80 ppm (m, 2H), 2.70 ppm (m, 4H), 2.45 ppm (s, 6H), 2.42 ppm (m, 2H), 2.40 ppm (s, 6H).

reactant | 1-Dimethylamino-piperidin-4-one | 3.0 g | CN(N1CCC(CC1)=O)C | C7H14N2O
reactant | N,N-dimethylhydrazine | 3.8 g | CN(N)C | C2H8N2
product | [4-(Dimethyl-hydrazono)-piperidin-1-yl]-dimethyl-amine | 3.65 g | CN(N=C1CCN(CC1)N(C)C)C | C9H20N4
